US08633173B2
2-Chloro-8-(2-methoxy-5-trifluoromethyl-pyridin-3-yl)-[1,2,4]triazolo[1,5-a]pyridine was prepared from 8-bromo-2-chloro-[1,2,4]triazolo[1,5-a]pyridine and 2-methoxy-5-trifluoromethylpyridineboronic acid in a manner analogous to Example 2c (0.46 g, 65%). MP=183-185° C. MS=329 (MH)+.

reactant | 8-bromo-2-chloro-[1,2,4]triazolo[1,5-a]pyridine | BrC=1C=2N(C=CC1)N=C(N2)Cl | C6H3BrClN3
reactant | 2-methoxy-5-trifluoromethylpyridineboronic acid | COC1(NC=C(C=C1)C(F)(F)F)B(O)O | C7H9BF3NO3
product | 2-Chloro-8-(2-methoxy-5-trifluoromethyl-pyridin-3-yl)-[1,2,4]triazolo[1,5-a]pyridine | ClC1=NN2C(C(=CC=C2)C=2C(=NC=C(C2)C(F)(F)F)OC)=N1 | C13H8ClF3N4O
